US05124456
The procedure of Example (1a) was repeated using 4- amino-2,2,6,6-tetramethylpiperidine, without introducing catalyst and performing the addition of diketene at a temperature of 0° C. to 10° C.; 4-acetoacetamido-2,2,6,6-tetramethyl-piperidine was obtained in the form of a white solid which had a melting point of 115° C.

reactant | 4- amino-2,2,6,6-tetramethylpiperidine | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
product | 4-acetoacetamido-2,2,6,6-tetramethyl-piperidine | C(CC(=O)C)(=O)NC1CC(NC(C1)(C)C)(C)C | C13H24N2O2
